US05489593
1-[Benzyloxycarbonyl]-4-[3-(1-ethylpropylamino)-2-pyridinyl]piperazine
Following the general procedure of PREPARATION 8 and making non-critical variations but starting with 1-[benzyloxycarbonyl]-4-[(3-amino)-2-pyridinyl]piperazine (PREPARATION 100 10.5 g), 3-pentanone (0.15 g) sodium cyanoborohydride (0.11 g), acetic acid (52.3 ml) and methanol (3.2), the title compound is obtained, NMR (300 MHz, CDCl3) 7.66, 7.38-7.33, 6.90, 6.79, 5.17, 4.21, 3.65, 3.15, 3.04, 1.66-1.46 and 0.93 δ.

reactant | 1-[benzyloxycarbonyl]-4-[(3-amino)-2-pyridinyl]piperazine | 10.5 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC=CC=C1N | C17H20N4O2
reactant | 3-pentanone | 0.15 g | CCC(CC)=O | C5H10O
reactant | acetic acid | 52.3 ml | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 1-[Benzyloxycarbonyl]-4-[3-(1-ethylpropylamino)-2-pyridinyl]piperazine | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC=CC=C1NC(CC)CC | C22H30N4O2
